US06300368B1
4′-(2-Aminoethoxy)-2,6-dimethoxybenzanilide (0.74 g) was dissolved into ethanol (5 ml) and added with 1N HCl/ethanol (5 ml). The solution was added with diethyl ether (100 ml). The precipitate was collected and dried under vacuum to obtain 4′-(2-aminoethoxy)-2,6-dimethoxybenzanilide hydrochloride (0.73 g) as white powder.

reactant | 4′-(2-Aminoethoxy)-2,6-dimethoxybenzanilide | 0.74 g | NCCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1 | C17H20N2O4
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | HCl ethanol | 1N, 5 ml | Cl.C(C)O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4′-(2-aminoethoxy)-2,6-dimethoxybenzanilide hydrochloride | 0.73 g | Cl.NCCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1 | InChI=1S/C17H20N2O4.ClH/c1-21-14-4-3-5-15(22-2)16(14)17(20)19-12-6-8-13(9-7-12)23-11-10-18;/h3-9H,10-11,18H2,1-2H3,(H,19,20);1H
